### PR TITLE
feat: add Fourier interpolation in dimensions 8 and 24

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds the full Cohn-Kumar-Miller-Radchenko-Viazovska Fourier sampling isomorphism in dimensions 8 and 24 as an eval problem. It states that radial Schwartz functions are in bijection, via value and radial-derivative samples of the function and its Fourier transform at radii sqrt(2n), with four rapidly decreasing sequences.

:robot: Prepared with OpenAI Codex

### CODE REVIEW

File: LeanEval/Analysis/RadchenkoViazovskaInterpolation.lean [hunk 1]
```diff
@@ -0,0 +1,32 @@
...
+
+/-- **Radchenko-Viazovska Fourier interpolation uniqueness theorem.**
+An even Schwartz function on `ℝ` whose values and Fourier-transform values
+vanish at every `sqrt n` is identically zero. -/
+@[eval_problem]
+theorem radchenko_viazovska_fourier_interpolation
+    (f : 𝓢(ℝ, ℂ)) (heven : Function.Even f)
+    (hf : ∀ n : ℕ, f (Real.sqrt n) = 0)
+    (hfourier : ∀ n : ℕ, (𝓕 f) (Real.sqrt n) = 0) :
+    f = 0 := by
```
Comment (alreadydone) [inline LeanEval/Analysis/RadchenkoViazovskaInterpolation.lean]: Why not combine uniqueness and existence in this simple statement? (**Update**: this is wrong, see next comment)
```
theorem radchenko_viazovska_fourier_interpolation (a ahat : ℕ → ℂ) :
    ∃! f : 𝓢(ℝ, ℂ), Function.Even f ∧ ∀ n : ℕ, 
      f (Real.sqrt n) = a n ∧ 𝓕 f (Real.sqrt n) = ahat n := by
  sorry
```

Notice also that the [Real.fourierChar](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/Circle.html#Real.fourierChar) that goes into [Real.instFourierTransform](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Fourier/FourierTransform.html#Real.instFourierTransform) and then into [SchwartzMap.fourierTransformCLM](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/SchwartzSpace/Fourier.html#SchwartzMap.fourierTransformCLM) differs by a sign from the convention in Radchenko-Viazovska, so their Fourier transform is our inverse Fourier transform. But this doesn't affect validity of the result.

Comment (alreadydone) [reply LeanEval/Analysis/RadchenkoViazovskaInterpolation.lean]: Sorry, the sequences `a` and `ahat` need to be rapidly decaying:
Image
and there's a relation between the coefficients given by the Poisson summation formula, which determines `f(0)` from the other coefficients.
Image

So a cheap way to state the existence result is
```suggestion
theorem radchenko_viazovska_fourier_interpolation :
    (∀ k : ℕ, k ≠ 0 → ∃ f : 𝓢(ℝ, ℂ), Function.Even f ∧
      ∀ n : ℕ, 𝓕 f √n = 0 ∧ n ≠ 0 → f √n = if n = k then 1 else 0) ∧
    ∀ k : ℕ, ∃ f : 𝓢(ℝ, ℂ), Function.Even f ∧
      ∀ n : ℕ, 𝓕 f √n = (if n = k then 1 else 0) ∧ n ≠ 0 → f √n = 0 := by
```

Comment (alreadydone) [reply LeanEval/Analysis/RadchenkoViazovskaInterpolation.lean]: Here's my statement of the 8/24-dim result:
```
import Mathlib

open scoped FourierTransform SchwartzMap

/-- A function is radial if it takes the same value
on elements of the same norm. -/
def Radial {E F : Type*} [Norm E] (f : E → F) : Prop :=
  ∀ e e' : E, ‖e‖ = ‖e'‖ → f e = f e'

/-- Inclusion of a coordinate axis into ℝⁿ. -/
abbrev realIncl {n : ℕ} [NeZero n] (r : ℝ) : EuclideanSpace ℝ (Fin n) :=
  WithLp.toLp 2 (if · = 0 then r else 0)

/-- The coefficients `f(√2k)`, `𝓕f(√2k)`, `f'(√2k)` and `𝓕f'(√2k)`. -/
noncomputable def coeffs (n k₀ : ℕ) [NeZero n] (f : EuclideanSpace ℝ (Fin n) → ℂ) :
    (Set.Ici k₀ × Fin 4) → ℂ :=
  Function.uncurry fun k ↦ let r := √(2 * k)
    ![f (realIncl r), 𝓕 f (realIncl r),
      deriv (f ∘ realIncl) r, deriv (𝓕 f ∘ realIncl) r]

/-- Statement of the Cohn–Kumar–Miller–Radchenko–Viazovska Fourier interpolation
theorem with parameter `(n, k₀)`. -/
def CKMRV (n k₀ : ℕ) [NeZero n] : Prop :=
    ∀ l₀ : Set.Ici k₀ × Fin 4,
      ∃! f : 𝓢(EuclideanSpace ℝ (Fin n), ℂ), Radial f ∧
        ∀ l, coeffs n k₀ f l = if l = l₀ then 1 else 0

@[eval_problem]
theorem CKMRV_interpolation₈ : CKMRV 8 1 := by
  sorry

@[eval_problem]
theorem CKRMV_interpolation₂₄ : CKMRV 24 2 := by
  sorry
```
This is essentially Theorem 1.9 in https://arxiv.org/abs/1902.05438:
Image

File: manifests/problems/radchenko_viazovska_fourier_interpolation.toml [hunk 2]
```diff
@@ -0,0 +1,9 @@
...
+source = "D. Radchenko and M. Viazovska, 'Fourier interpolation on the real line', Publ. Math. Inst. Hautes Etudes Sci. 129 (2019), 51-81, Theorem 1, https://doi.org/10.1007/s10240-018-0101-z."
+informal_solution = "Radchenko and Viazovska construct explicit even Schwartz functions `a_n` indexed by nonnegative integers and prove the interpolation identity `f(x) = sum_n f(sqrt n) a_n(x) + sum_n fourier(f)(sqrt n) fourier(a_n)(x)` for every even Schwartz function `f`, with convergence in the Schwartz topology. The basis functions arise from weakly holomorphic modular forms and contour-integral generating functions; modular transformation laws yield both the interpolation nodes and the required Fourier eigenfunction relations. Under the two vanishing hypotheses in Lean, every coefficient in the interpolation formula is zero, so the right-hand side vanishes for every `x`, and hence `f = 0`."
```
Comment (alreadydone) [inline manifests/problems/radchenko_viazovska_fourier_interpolation.toml]:
```suggestion
notes = "This is the injectivity, or uniqueness, consequence of the Radchenko-Viazovska interpolation formula. The quantified object is Mathlib's Schwartz space `𝓢(ℝ, ℂ)`, and `𝓕` is Mathlib's Fourier transform with kernel `exp(2πixξ)`. For an even Schwartz function, the two sample sequences `f(√n)` and `fourier(f)(√n)`, `n ≥ 0`, determine `f`; equivalently, simultaneous vanishing of all samples forces `f = 0`. This treats Viazovska's medal-cited Fourier interpolation work directly in Mathlib's Schwartz-space API."
source = "D. Radchenko and M. Viazovska, 'Fourier interpolation on the real line', Publ. Math. Inst. Hautes Etudes Sci. 129 (2019), 51-81, Theorem 1, https://doi.org/10.1007/s10240-018-0101-z."
informal_solution = "Radchenko and Viazovska construct explicit even Schwartz functions `a_n` indexed by nonnegative integers and prove the interpolation identity `f(x) = ∑ₙ f(√n) aₙ(x) + ∑ₙ fourier(f)(√n) âₙ(x)` for every even Schwartz function `f`, with convergence in the Schwartz topology. The basis functions arise from weakly holomorphic modular forms and contour-integral generating functions; modular transformation laws yield both the interpolation nodes and the required Fourier eigenfunction relations. Under the two vanishing hypotheses in Lean, every coefficient in the interpolation formula is zero, so the right-hand side vanishes for every `x`, and hence `f = 0`."
```

File: LeanEval/Analysis/RadchenkoViazovskaInterpolation.lean (hunk 1 above)
Comment (kim-em) [reply LeanEval/Analysis/RadchenkoViazovskaInterpolation.lean]: :robot: Codex says: I kept the one-dimensional uniqueness consequence. A faithful general existence statement needs rapid-decay and compatibility infrastructure that is not present here, while the 8/24-dimensional CKMRV theorem is a distinct later result. I corrected the Fourier-sign documentation and renamed the manifest title to identify this explicitly as uniqueness in commit `c950f55`.

File: manifests/problems/radchenko_viazovska_fourier_interpolation.toml (hunk 2 above)
Comment (kim-em) [reply manifests/problems/radchenko_viazovska_fourier_interpolation.toml]: :robot: Codex says: Applied the positive-sign Mathlib convention and added an explicit note that it is opposite to the cited paper and immaterial for uniqueness in commit `c950f55`.

File: LeanEval/Analysis/RadchenkoViazovskaInterpolation.lean (hunk 1 above)
Comment (kim-em) [reply LeanEval/Analysis/RadchenkoViazovskaInterpolation.lean]: :robot: Codex says: On reconsideration, the coordinate-delta basis formulation is correct, but the published Theorem 1.9 supports an even stronger clean statement: the full sampling bijection from radial Schwartz functions to four arbitrary rapidly decreasing sequences. I upgraded the PR to that theorem simultaneously in dimensions 8 and 24 in commit `619225d`; the delta-basis functions follow by applying the inverse equivalence to coordinate vectors.

File: manifests/problems/radchenko_viazovska_fourier_interpolation.toml (hunk 2 above)
Comment (kim-em) [reply manifests/problems/radchenko_viazovska_fourier_interpolation.toml]: :robot: Codex says: Correction to my earlier reply: Mathlib and the paper use the same negative-exponent Fourier kernel. Although `Real.fourierChar` itself is `exp(2*pi*i*x)`, `Fourier.fourier_eq` evaluates it at the negative inner product, giving `exp(-2*pi*i*inner(x,y))`. The upgraded manifest now states the correct convention in commit `619225d`.

File: LeanEval/Analysis/CKMRVInterpolation.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+
+/-- Four rapidly decreasing complex sample sequences indexed from `k₀`. -/
+abbrev RapidSampleData (k₀ : ℕ) :=
+  {a : (Set.Ici k₀ × Fin 4) → ℂ // RapidlyDecreasingSamples a}
+
+/-- The full Fourier sampling isomorphism with dimension and starting index
+as parameters. The equivalence is required to be the sampling map `coeffs`. -/
+def CKMRV (n k₀ : ℕ) [NeZero n] : Prop :=
+  ∃ e : RadialSchwartz n ≃ RapidSampleData k₀,
+    ∀ f, (e f).1 = coeffs n k₀ f.1
```
Comment (alreadydone) [inline LeanEval/Analysis/CKMRVInterpolation.lean:65]: You could inline several definitions, and also state the 1-dim result on the real line. I also simplified the definition of `coeffs` a bit; if you use `f : 𝓢(EuclideanSpace ℝ (Fin n), ℂ)` there then `𝓕 f ∘ realIncl` doesn't work and you have to define the intermediate `fhat`:
```suggestion
/-- The four sample sequences: values of `f` and its Fourier transform,
followed by their radial derivatives, at radii `sqrt (2 * k)`. -/
noncomputable def coeffs (n k₀ : ℕ) [NeZero n]
    (f : EuclideanSpace ℝ (Fin n) → ℂ) :
    Set.Ici k₀ × Fin 4 → ℂ :=
  Function.uncurry fun k ↦
    let r := √(2 * k)
    ![f (realIncl r), 𝓕 f (realIncl r),
      deriv (f ∘ realIncl) r, deriv (𝓕 f ∘ realIncl) r]

/-- A complex sequence indexed by integers at least `k₀` is rapidly decreasing
if multiplication by every natural power of the index still tends to zero. -/
def RapidlyDecreasing {k₀ : ℕ} (a : Set.Ici k₀ → ℂ) : Prop :=
  ∀ m : ℕ, Tendsto (fun k ↦ k ^ m * ‖a k‖) atTop (𝓝 0)

/-- The full Fourier sampling isomorphism with dimension and starting index
as parameters. The equivalence is required to be the sampling map `coeffs`. -/
def CKMRV (n k₀ : ℕ) [NeZero n] : Prop :=
  ∃ e : {f : 𝓢(EuclideanSpace ℝ (Fin n), ℂ) // Radial f} ≃ 
    {a : Set.Ici k₀ × Fin 4 → ℂ // ∀ j, RapidlyDecreasing fun k ↦ a (k, j)},
  ∀ f, (e f).1 = coeffs n k₀ f.1

@[eval_problem]
theorem radchenko_viazovska_interpolation :
    ∃ e : {f : 𝓢(ℝ, ℂ) // Function.Even f} ≃
      {a : Set.Ici 0 × Fin 2 → ℂ //
        tsum (fun k : ℤ ↦ a (⟨k.natAbs ^ 2, by simp⟩, 0)) = 
        tsum (fun k : ℤ ↦ a (⟨k.natAbs ^ 2, by simp⟩, 1)) ∧
        ∀ j, RapidlyDecreasing fun k ↦ a (k, j)},
    ∀ f, (e f).1 = Function.uncurry fun k ↦ ![f.1 √k.1, 𝓕 f.1 √k.1] := by
  sorry
```

File: manifests/problems/radchenko_viazovska_fourier_interpolation.toml (hunk 2 above)
Comment (alreadydone) [reply manifests/problems/radchenko_viazovska_fourier_interpolation.toml]: I stand corrected! [[VectorFourier.fourierIntegral](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Fourier/FourierTransform.html#VectorFourier.fourierIntegral)](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Fourier/FourierTransform.html#VectorFourier.fourierIntegral) is where the negative sign is introduced, which goes into [[Real.instFourierTransform](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Fourier/FourierTransform.html#Real.instFourierTransform)](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Fourier/FourierTransform.html#Real.instFourierTransform).
